US08486967B2
8-(3,4-Difluorophenyl)-N-((3S,4R)-3-methoxy-1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine
To a solution (3S,4R)-tert-butyl 4-(8-(3,4-difluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)-3-methoxypiperidine-1-carboxylate (37 mg, 80.5 mol) in dichloromethane (1 mL) was added HCl (2 M in diethylether, 201 L, 403 mol) and the reaction mixture was stirred at room temperature for 18 hours. The mixture was then filtered and the white precipitate was washed with dichloromethane and diethylether and dried to afford the title compound (32 mg, 92%) as an off white solid.

reactant | (3S,4R)-tert-butyl 4-(8-(3,4-difluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)-3-methoxypiperidine-1-carboxylate | 80.5 mol, 37 mg | FC=1C=C(C=CC1F)C=1C=2N(C=CC1)N=C(N2)N[C@H]2[C@H](CN(CC2)C(=O)OC(C)(C)C)OC | C23H27F2N5O3
reactant | HCl | 403 mol, 2 M, 201 L | Cl | ClH
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 8-(3,4-Difluorophenyl)-N-((3S,4R)-3-methoxy-1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 32 mg, 92% | FC=1C=C(C=CC1F)C=1C=2N(C=CC1)N=C(N2)N[C@H]2[C@H](CN(CC2)C2=NC=NC(=C2)C)OC | C23H23F2N7O
